US07304081B2
(1R)-1′-{[1-(2-Fluoro-4-pyridin-2-ylphenyl)cyclopropyl]-carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
A mixture of (1R)-1′-{[1-(4-chloro-2-fluorophenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one (20 mg, purity: 80%, 0.04 mmol), 2-(tributylstannyl)-pyridine (17 mg, 0.046 mmol), Tris(dibenzylideneacetone)dipalladium(0) (2 mg, 0.002 mmol), tri-tert-butylphosphine (0.8 mg, 0.004 mmol), and cesium carbonate (16 mg, 0.05 mmol) in 1,4-dioxane (0.5 ml) was microwave irradiated at 100° C. for 30 minutes. The product was obtained from the mixuture by prep-HPLC. LCMS: m/z 429.2 (M+H)+; 451.1 (M+Na)+.

reactant | (1R)-1′-{[1-(4-chloro-2-fluorophenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | 0.04 mmol, 20 mg | ClC1=CC(=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O)F | C21H17ClFNO3
reactant | 2-(tributylstannyl)-pyridine | 0.046 mmol, 17 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | tri-tert-butylphosphine | 0.004 mmol, 0.8 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | cesium carbonate | 0.05 mmol, 16 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.002 mmol, 2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (1R)-1′-{[1-(2-Fluoro-4-pyridin-2-ylphenyl)cyclopropyl]-carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | FC1=C(C=CC(=C1)C1=NC=CC=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C26H21FN2O3
